US05846943
A reaction mixture containing lactose (50 mg), UDP-Gal(20 mg), α(1-3)-galactosyltransferase (60 mU), alkaline phosphatase (20 U), 20 mM MnCl2 and 0. 1% Triton X-100 in 50 mM sodium cacodylate buffer (3 mL) at pH 6.5, was incubated at 37° C. Additional UDP-Gal was added to the mixture after 24 hours (20 mg), and 48 hours (50 mg). After 120 hours, fresh α(1-3)-galactosyltransferase (20 mU) and UDP-Gal (10 mg) were added to the mixture, which was incubated for an additional 72 hours to give about 95% conversion to product. The reaction mixture was filtered through a 0.2 μm Nalgene nylon filter, the filtrate was applied to a Bio-Rad AG 1X8 column (Cl-form 2.5×20 cm, 0.6 mL/min) and the column was eluted with water. Saccharide fractions were combined and lyophilized. The dry residue was dissolved in 50 mM potassium phosphate buffer, pH 7.5, β-galactosidase (150 mU) was added to the mixture to destroy unreacted lactose, and the sample left at ambient temperature (24° C.) for 18 hours. The mixture was then boiled for 2 minutes, filtered through a 0.2 μm filter and divided into three portions each of which was loaded onto a C-18 silica gel column (20 g). The columns were eluted with water (200 mL) and the aqueous eluents were concentrated to dryness under reduced pressure. The residue was dissolved in water (5mL) and applied to a Bio-Gel P-2 column (2.5×100 cm, H2O, 0.2 mL/min). Fractions which contained the trisaccharide were combined and lyophilized to give 10.5 mg of αGal(1-3)βGal(1-4)Glc. 1H n.m.r. data (500 MHz, D2 O): δ=5.22 (d, 0.36H, J 3.6 Hz, H-1α), 5.14 (d, 1 H, J 3.0 Hz, H-1"), 4.66 (d, 0.64 H, J 8.0 Hz, H-1β), 4.51 (d, 1 H, J 8.0 Hz, H-1').

reactant | lactose | 50 mg | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | UDP-Gal | 20 mg | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | UDP-Gal | 10 mg | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
solvent | sodium cacodylate | 50 mM, 3 mL | [As]([O-])(=O)(C)C.[Na+]
product | αGal(1-3)βGal(1-4)Glc | 10.5 mg | O([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@@H]1[C@H]([C@H](O[C@H]2[C@@H]([C@H](C(O)O[C@@H]2CO)O)O)O[C@@H]([C@@H]1O)CO)O | C18H32O16
